US06150379
A mixture comprising 2-pyridin-2-yl-1H-benzimidazole-5-carbonitrile (110 g, 0.5 mmol), hydroxylamine hydrochloride (38.2 mg, 0.55 mmol), potassium carbonate (104 mg, 0.75 mmol) and methanol (10 mL) was heated at reflux for 2.5 hours and then concentrated to dryness. The residue was taken up and purified by preparative reverse phase HPLC. The combined pure fractions were lyophilized to provide N-hydroxy-2-pyridin-2-yl-1H-benzimidazole-5-carboxamidine (40 mg, 0.23 mmol); 1H-NMR (300 Mhz, DMSO-d6): 7.53-7.57 (m, 2H), 7.80 (d, 1H), 8.01-8.04 (m, 2H), 8.32 (d, 1H), 8.75 (d, 1H), 9.20 (b, 2H); MS (ESI), Calculated for C13H11N5O: 253.1, Found (MH+): 253.7.

reactant | 2-pyridin-2-yl-1H-benzimidazole-5-carbonitrile | 0.5 mmol, 110 g | N1=C(C=CC=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C13H8N4
reactant | hydroxylamine hydrochloride | 0.55 mmol, 38.2 mg | Cl.NO
reactant | potassium carbonate | 0.75 mmol, 104 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | N-hydroxy-2-pyridin-2-yl-1H-benzimidazole-5-carboxamidine | 0.23 mmol, 40 mg | ONC(=N)C1=CC2=C(NC(=N2)C2=NC=CC=C2)C=C1 | C13H11N5O
